US07291631B2
To a solution of 2-methyl-5-phenyl-pyridine (800 mg, 4.73 mmol) (Koyama, J. et al. Heterocycles, 1994, 38, 1595-1600) in mixture of dioxane/water (20 mL:2 mL) was added SeO2 (577 mg, 5.20 mmol). The reaction mixture was heated to 110° C. overnight. Then the reaction mixture was cooled and concentrated in vacuo. Purification by flash column chromatography on silica gel using 1:4 hexanes/EtOAc afforded 5-phenyl-pyridine-2-carbaldehyde as a pale yellow solid (124 mg, 14%). 1H NMR (CDCl3) δ 7.49-7.52 (m, 3H), 7.63-7.66 (m, 2H), 8.05 (s, 2H), 9.02 (d, 1H, J=3.0 Hz), 10.12 (s, 1H).

reactant | 2-methyl-5-phenyl-pyridine | 4.73 mmol, 800 mg | CC1=NC=C(C=C1)C1=CC=CC=C1 | C12H11N
reactant | dioxane water | 20 mL | O1CCOCC1.O
product | 5-phenyl-pyridine-2-carbaldehyde | 124 mg, 14% | C1(=CC=CC=C1)C=1C=CC(=NC1)C=O | C12H9NO
